US07629424B2
In a 50-mL one neck round bottom flask, sodium hydroxide, Catalog No. 655104 from Aldrich Co. (0.33 g) was dissolved in water (37 mL). In the same flask, cis-endo-5-norbornene-2,3-dicarboxylic anhydride, Catalog No. 247634 from Aldrich Co. (2.54 g), and tetrahydrofuran (5 mL) were added. The flask was heated while stirring in a 45° C. water bath for five minutes to dissolve then cooled in an ice bath to 5° C. Bromine, Catalog No. 207888 from Aldrich Co. (2.55 g) was added dropwise to the flask. After stirring for 14 hours at room temperature, extract the product in ethyl acetate (100 mL) and dry with magnesium sulfate. The product, 2-bromo-5-oxo-4-oxatricyclo[4.2.1.03,7]nonane-9-carboxylic acid (3.86 g) was isolated by removing ethyl acetate by rotary evaporation.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | cis-endo-5-norbornene-2,3-dicarboxylic anhydride | C1C2C=CC1[C@@H]3[C@H]2C(=O)OC3=O | C9H8O3
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | Bromine | BrBr | Br2
solvent | water | 37 mL | O | H2O
product | 2-bromo-5-oxo-4-oxatricyclo[4.2.1.03,7]nonane-9-carboxylic acid | 3.86 g | BrC1C2CC3C(C(OC13)=O)C2C(=O)O | C9H9BrO4
